US05013760
4-[2-(6-(2-Phenylethylamino)hexylamino)ethyl]-1,2-benzenediol-bis-(2-methylpropionate) dihydrochloride
Isobutyryl bromide (12 g) was added to a stirred solution of 4-[2-(6-(2-Phenylethylamino)hexylamino) ethyl]-1,2-benzenediol dihydrobromide (4 g) in trifluoracetic acid (100 ml). The solution was then stirred at room temperature for 24 hours. The excess solvent was evaporated and the residue treated with sodium bicarbonate solution. The basic mixture was thoroughly extracted with chloroform. The organic phase was separated, dried over magnesium sulfate, filtered and evaporated to leave a colorless oil which gave a white precipitate when treated with ethereal HCl. The white precipitate was recrystallised to give the title compound from ethanol as colorless prisms (2.8 g), m.p. 232°-234°.

reactant | Isobutyryl bromide | 12 g | C(C(C)C)(=O)Br | C4H7BrO
reactant | 4-[2-(6-(2-Phenylethylamino)hexylamino) ethyl]-1,2-benzenediol dihydrobromide | 4 g | Br.Br.C1(=CC=CC=C1)CCNCCCCCCNCCC=1C=C(C(=CC1)O)O
reactant | HCl | Cl | ClH
solvent | trifluoracetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[2-(6-(2-Phenylethylamino)hexylamino)ethyl]-1,2-benzenediol bis-(2-methylpropionate) dihydrochloride | C1(=CC=CC=C1)CCNCCCCCCNCCC=1C=C(C(=CC1)O)O.Cl.Cl.CC(C(=O)O)C.CC(C(=O)O)C | InChI=1S/C22H32N2O2.2C4H8O2.2ClH/c25-21-11-10-20(18-22(21)26)13-17-24-15-7-2-1-6-14-23-16-12-19-8-4-3-5-9-19;2*1-3(2)4(5)6;;/h3-5,8-11,18,23-26H,1-2,6-7,12-17H2;2*3H,1-2H3,(H,5,6);2*1H
